US08247596B2
To a suspension of 15.10 g of a double salt of 2KHSO5.KHSO4.K2SO4 (Oxone, registered trade mark) in 100 ml of water was added dropwise a solution of 4.77 g of (3,3,4,4,5,5,6,6,6-nonafluorohexylthio)acetonitrile in 100 ml of methanol at −20° C. over 60 minutes under a nitrogen atmosphere, and the mixture was stirred for 2 hours. To the reaction mixture was added 50 ml of an aqueous 10% sodium sulfite solution, followed by extraction with 100 ml of ethyl acetate twice. Organic layers were combined, washed with 50 ml of an aqueous 10% sodium sulfite solution and 50 ml of an aqueous saturated sodium chloride solution, dried over sodium sulfate, filtered, and then concentrated under rescued pressure. The residue was subjected to silica gel column chromatography to obtain 12.56 g of (3,3,4,4,5,5,6,6,6-nonafluorohexylsulfinyl)acetonitrile represented by the formula:

reactant | KHSO4 | OS(=O)(=O)[O-].[K+]
reactant | (3,3,4,4,5,5,6,6,6-nonafluorohexylthio)acetonitrile | 4.77 g | FC(CCSCC#N)(C(C(C(F)(F)F)(F)F)(F)F)F | C8H6F9NS
reactant | sodium sulfite | S(=O)([O-])[O-].[Na+].[Na+]
solvent | water | 100 ml | O | H2O
solvent | methanol | 100 ml | CO | CH4O
product | (3,3,4,4,5,5,6,6,6-nonafluorohexylsulfinyl)acetonitrile | 12.56 g | FC(CCS(=O)CC#N)(C(C(C(F)(F)F)(F)F)(F)F)F | C8H6F9NOS
